US05710139
SeO2 (0.56 g, 5.06 mmol) was added to a solution of 3-(diethylphosphonomethyl)-6,7-dimethoxy-2-methylquinoline (1.79 g, 5.06 mmol) in dioxane (25 ml). The mixture was refluxed for 75 min, filtered and concentrated. The remaining oil was purified by chromatography to give 1.48 g 3-(diethylphosphonomethyl)-6,7-dimethoxyquinoline-2-carboxaldehyde.

reactant | 3-(diethylphosphonomethyl)-6,7-dimethoxy-2-methylquinoline | 5.06 mmol, 1.79 g | C(C)OP(=O)(OCC)CC=1C(=NC2=CC(=C(C=C2C1)OC)OC)C | C17H24NO5P
reactant | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 3-(diethylphosphonomethyl)-6,7-dimethoxyquinoline-2-carboxaldehyde | 1.48 g | C(C)OP(=O)(OCC)CC=1C(=NC2=CC(=C(C=C2C1)OC)OC)C=O | C17H22NO6P
